US06362217B1
7-Deoxy Baccatin III.
(2) To a solution of 7-deoxy paclitaxel (461 mg, 0.55 mmol) in 20 mL of methylene chloride and 0.4 mL of methanol was added Bu4NBH4 (283 mg, 1.1 mmol) and the solution stirred for 24 hours. The solution was quenched with saturated NH4Cl and extracted with ethyl acetate. The solution was dried over MgSO4 and concentrated. The residue was chromatographed over silica gel using hexane-ethyl acetate (1:1) to give 249 mg of product (79%).

reactant | 7-deoxy paclitaxel | 0.55 mmol, 461 mg | CC1=C2[C@H](C(=O)[C@@]3(CC[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)C)OC(=O)C | C47H51NO13
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 0.4 mL | CO | CH4O
product | 7-Deoxy Baccatin III | 249 mg, 79% | CC1=C2[C@H](C(=O)[C@@]3(CC[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C5=CC=CC=C5)(CO4)OC(=O)C)C)OC(=O)C | C31H38O10
